US08314088B2
N-(cyclopropylmethyl)-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
To a solution of 8-benzyl-N-(cyclopropylmethyl)-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (0.36 g) in methanol (10 mL) was added 20% Pd(OH)2/C (70 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 2.5 hr. The reaction mixture was filtered, and the filtrate was concentrated. To a solution of the obtained crude product in ethyl acetate (10 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (300 μL), and the mixture was stirred for 30 min. The reaction mixture was filtered, and the obtained crystals were purified by recrystallization (methanol-ethyl acetate) to give the title compound (197 mg, 67%) as a colorless powder.

reactant | 8-benzyl-N-(cyclopropylmethyl)-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 0.36 g | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N(C)CC2CC2 | C19H24N4O
reactant | hydrogen chloride-ethyl acetate | 4 N, 300 μL | C(C)(=O)OCC.Cl
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd(OH)2/C | 70 mg | [OH-].[OH-].[Pd+2]
product | N-(cyclopropylmethyl)-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 197 mg, 67% | Cl.C1(CC1)CN(C1=NC2=C(CNCCO2)N=C1)C | InChI=1S/C12H18N4O.ClH/c1-16(8-9-2-3-9)11-7-14-10-6-13-4-5-17-12(10)15-11;/h7,9,13H,2-6,8H2,1H3;1H
